US06927221B2
1-Mesityl-2-methyl-1-nitrobenzene
A solution of 2-bromo-6-nitrotoluene (10.0 g, 46 mmol), mesitylboric acid (8.3 g, 51 mmol), Pd(PPh3)4 (2.7 g, 2.31 mmol) and barium hydroxide octahydrate (21.9 g, 69 mmol) in 2,2-dimethoxyethane (300 mL) and water (50 mL) was heated under reflux for six hours. The mixture was filtered through Celite, and the filtrate was diluted with ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (0-1% ethyl acetate/hexane), to give the title compound (11.0 g) as white crystals.

reactant | 2-bromo-6-nitrotoluene | 46 mmol, 10.0 g | BrC1=C(C(=CC=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | mesitylboric acid | 51 mmol, 8.3 g | C1(=C(C(=CC(=C1)C)C)OB(O)O)C | C9H13BO3
reactant | barium hydroxide octahydrate | 69 mmol, 21.9 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
solvent | 2,2-dimethoxyethane | 300 mL | COC(C)OC | C4H10O2
solvent | water | 50 mL | O | H2O
catalyst | Pd(PPh3)4 | 2.31 mmol, 2.7 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-Mesityl-2-methyl-1-nitrobenzene | 11.0 g | C1(=C(C(=CC(=C1)C)C)C1(C(C=CC=C1)C)[N+](=O)[O-])C | C16H19NO2
